US08614206B2
To a solution of 5-azido-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol, Intermediate 18 (0.85 g, 3.0 mmol) in DMF (5 mL) cooled to 0° C. under nitrogen, was added sodium hydride (60% in mineral oil, 133 mg, 3.3 mmol) and the resulting mixture was stirred for 10 min. Iodomethane (0.37 mL, 6.0 mmol) was added and the mixture stirred at room temperature for 16 hr. Water (200 mL) was added and the mixture extracted with EtOAc (2×50 mL). The combined organic layers were dried over Na2SO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-50% EtOAc/isohexane) gave 5-azido-3-methoxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepane as an oil (0.76 g). This azide (0.76 g, 2.6 mmol) in THF (15 mL) and water (3 mL) was treated with triphenylphosphine (0.71 g, 2.7 mmol). The mixture was heated at 65° C. for 16 hr and the solvents were removed under reduced pressure to afford 6-methoxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-amine. This amine was suspended in DCM (40 mL) and di-tert-butyl dicarbonate (1.13 g, 5.2 mmol) and DIPEA (1.36 mL, 7.8 mmol) were added. After stirring at room temperature for 16 hr the solvent was removed under reduced pressure and the residue dissolved in DCM (40 mL). Water (20 ml) was added and the organic layer was separated, dried over Na2SO4 and the solvent removed under reduced pressure. Purification via silica gel column chromatography (0-50% EtOAc/isohexane) gave tert-butyl 6-methoxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-4-ylcarbamate (0.84 g, 74% over three steps) as an oil. 1H NMR (400 MHz, CDCl3) δ 8.03 (d, J=4.3 Hz, 1H), 5.39 (d, J=7.9 Hz, 1H), 4.21-3.94 (m, 1H), 3.84 (s, 3H), 3.56-3.42 (m, 2H), 3.35-3.03 (m, 6H), 2.28-1.89 (m, 4H), 1.46 (s, 9H).

reactant | 5-azido-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepan-3-ol | N(=[N+]=[N-])C1CC(CN(CC1)C1=C(C=NN1C)[N+](=O)[O-])O | C10H15N7O3
reactant | sodium hydride | 3.3 mmol, 133 mg | [H-].[Na+]
reactant | Iodomethane | 6.0 mmol, 0.37 mL | IC | CH3I
reactant | Water | 200 mL | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-azido-3-methoxy-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepane | 0.76 g | N(=[N+]=[N-])C1CC(CN(CC1)C1=C(C=NN1C)[N+](=O)[O-])OC | C11H17N7O3
